US07084155B2
Preparation of 2-Bromo-1-(3-methoxy-phenyl)-ethanone
Reaction of 1-(5,6,7,8-tetrahydro-naphthalen-2-yl)-ethanone (5 g, 28.70 mmol), acetic acid (1.6 mL, 28.70 mmol), and bromine (1.7 mL, 33.00 mmol) followed by recrystallisation from cold EtOAc/Hexane gave the title compound (1.9 g, 26%) as a yellow powder. 1H NMR (300 MHz, CD3OD) δ 1.84 (t, 4H, J=6.6 Hz), 2.80–2.85 (m, 4H), 4.61 (s, 2H), 7.19 (d, 1H, J=8.7 Hz), 7.70–7.78 (m, 2H). ES-MS m/z 253 (M+H).

reactant | 1-(5,6,7,8-tetrahydro-naphthalen-2-yl)-ethanone | 28.70 mmol, 5 g | C1=C(C=CC=2CCCCC12)C(C)=O | C12H14O
reactant | acetic acid | 28.70 mmol, 1.6 mL | C(C)(=O)O | C2H4O2
reactant | bromine | 33.00 mmol, 1.7 mL | BrBr | Br2
product | 2-Bromo-1-(3-methoxy-phenyl)-ethanone | 1.9 g, 26% | BrCC(=O)C1=CC(=CC=C1)OC | C9H9BrO2
